US06953787B2
7-Benzyloxy-8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-7-benzyloxy-8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine (0.81 g, 1.83 mmol) in methanol (20 mL) was treated with 15% aqueous NaOH (20 mL), and stirred overnight at 20 C. The product mixture was diluted with water (200 mL), extracted twice with EtOAc (200 mL), the combined organic phases were washed with brine (100 mL), dried with Na2SO4 and concentrated to give 0.412 g of a clear oil. 1H NMR (400 MHz, CDCl3) d 7.38 (d, J=8 Hz, 2 H), 7.30 (dd, J=7, 8 Hz, 2 H), 7.23 (m, 2 H), 6.61 (s, 1 H), 5.03 (s, 2 H), 2.94 (m, 3 H), 2.81 (m, 3 H), 2.62 (m, 1 H), 2.30 (bs, 1 H), 1.24 (d, J=7 Hz, 3 H). MS calculated for C18H20BrNO+H: 346, observed: 346.

reactant | N-trifluoroacetyl-7-benzyloxy-8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.83 mmol, 0.81 g | FC(C(=O)N1CCC2=C(C(C1)C)C=C(C(=C2)OCC2=CC=CC=C2)Br)(F)F | C20H19BrF3NO2
reactant | NaOH | 20 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | 7-Benzyloxy-8-bromo-1-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.412 g | C(C1=CC=CC=C1)OC1=CC2=C(C(CNCC2)C)C=C1Br | C18H20BrNO
